US04005218
370 parts of ammonium chloride solution 0.78N are stirred and heated to reflux. Then there are added 37 parts of iron-powder, followed by the dropwise addition of a solution of 37 parts of 2,4-dichloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexandien-1-ylidene]benzeneacetonitrile in 333 parts of methylbenzene. Upon completion, stirring at reflux is continued overnight. The reaction mixture is cooled to 60° C, filtered and the filter-cake is washed with tetrahydrofuran. The filtrate is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2,2'-oxybispropane and 2-propanol, yielding 4-amino-2-chloro-α-(2,4-dichlorophenyl)-5-methylbenzeneacetonitrile hydrochloride.

reactant | ammonium chloride | 0.78N | [Cl-].[NH4+]
reactant | 2,4-dichloro-α-[2-chloro-4-(hydroxyimino)-5-methyl-2,5-cyclohexandien-1-ylidene]benzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)=C1C(=CC(C(=C1)C)=NO)Cl | C15H9Cl3N2O
catalyst | iron | [Fe] | Fe
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 4-amino-2-chloro-α-(2,4-dichlorophenyl)-5-methylbenzeneacetonitrile hydrochloride | Cl.NC1=CC(=C(C=C1C)C(C#N)C1=C(C=C(C=C1)Cl)Cl)Cl | InChI=1S/C15H11Cl3N2.ClH/c1-8-4-11(14(18)6-15(8)20)12(7-19)10-3-2-9(16)5-13(10)17;/h2-6,12H,20H2,1H3;1H
